data/oMe_Silver.jsonl
{"reaction_id": "NR-332_1-Br_2-C(C)(C)C_3-C_4-C","level": "hard","name": "Reimer-Tiemann Formylation","reactants_smiles": ["c1(O)c(Br)c(C(C)(C)C)c(C)c(C)c1","ClC(Cl)Cl","[OH-]"],"products_smiles": ["c1(O)c(Br)c(C(C)(C)C)c(C)c(C)c1(C=O)"],"conditions": "Strong base (e.g., KOH), Heat","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](Cl)Cl","step_weight": 0,"rationale": "Strong base abstracts a proton from chloroform, and the adjacent chloride leaves due to the stability of the resulting dichlorocarbene under these conditions."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(=O)C([C-](Cl)Cl)C(Br)=C(C(C)(C)C)C(C)=C1(C)","step_weight": 0,"rationale": "The electron-rich aromatic ring, activated by the ortho/para-directing hydroxyl group, attacks the electrophilic dichlorocarbene to form a cyclohexadienyl intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1([O-])c(Br)c(C(C)(C)C)c(C)c(C)c1(C(Cl)Cl)","step_weight": 0,"rationale": "Base deprotonates the phenolic OH, increasing electron density on the ring and stabilizing the intermediate via resonance."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CCl)C(C)=C(C)C(C(C)(C)C)=C1(Br)","step_weight": 0,"rationale": "Loss of chloride from the benzylic position is favored due to resonance stabilization of the resulting cationic character in the aromatic system."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1([O-])c(C(O)Cl)c(C)c(C)c(C(C)(C)C)c1(Br)","step_weight": 0,"rationale": "Hydroxide attacks the electrophilic carbon bearing chlorine, driven by the strong leaving group ability of chloride and the polar medium."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CO)C(C)=C(C)C(C(C)(C)C)=C1(Br)","step_weight": 0,"rationale": "Elimination of chloride from the geminal chlorohydrin intermediate forms the aldehyde functionality, favored by the stability of the carbonyl."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(O)c(Br)c(C(C)(C)C)c(C)c(C)c1(C=O)","step_weight": 0,"rationale": "Protonation of the phenoxide restores the neutral phenol, completing the ortho-formylation."}],"description": "Under strongly basic and heated conditions, chloroform undergoes deprotonation and α-elimination to generate dichlorocarbene, which electrophilically attacks the activated aromatic ring ortho to the hydroxyl group. Subsequent hydrolysis and elimination steps convert the carbene adduct into the ortho-formylated phenol via the Reimer–Tiemann pathway."}
{"reaction_id": "NR-133_1-c1nccnc1_2-c1ccc(Oc2ccccc2)cc1","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(c1ccc(Oc2ccccc2)cc1)C(=O)(c1nccnc1)"],"products_smiles": ["C(=O)(c1ccc(Oc2ccccc2)cc1)C(O)(c1nccnc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(Oc2ccccc2)cc1)=C([O-])(c1nccnc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(Oc2ccccc2)cc1)=C(O)(c1nccnc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(c1ccc(Oc2ccccc2)cc1)=C(O)(c1nccnc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(Oc2ccccc2)cc1)C(O)(c1nccnc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
